US06323197B1
7.8 g of 2-(4-methoxy-2-(4-nitrobenzoyl)phenyl)acetic acid is mixed in 200 ml of tetrahydrofuran with 2.3 ml of 80% hydrazine hydrate and stirred for 6 hours at room temperature. After standing overnight, it is mixed with 50 ml of water, and the tetrahydrofuran is drawn off in a rotary evaporator. The precipitated 2-(4-methoxy-2-(4-nitrobenzoyl)phenyl)acetic acid hydrazide (4.9 g) is suctioned off and stirred in 37 ml of glacial acetic acid at room temperature for 2 hours. It is diluted with 37 ml of water and suctioned off. 4.37 g of 8-methoxy-1-(4-nitrophenyl)-4,5-dihydro-3H-2,3-benzodiazepin-4-one with a melting point of 282° C. is obtained.

reactant | 2-(4-methoxy-2-(4-nitrobenzoyl)phenyl)acetic acid | 7.8 g | COC1=CC(=C(C=C1)CC(=O)O)C(C1=CC=C(C=C1)[N+](=O)[O-])=O | C16H13NO6
reactant | hydrazine hydrate | 2.3 ml | O.NN
reactant | water | 50 ml | O | H2O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 8-methoxy-1-(4-nitrophenyl)-4,5-dihydro-3H-2,3-benzodiazepin-4-one | 4.37 g | COC1=CC2=C(CC(NN=C2C2=CC=C(C=C2)[N+](=O)[O-])=O)C=C1 | C16H13N3O4
